US05945565
In a 100 mL three-necked round-bottomed flask fitted with a mechanical stirrer, nitrogen inlet and thermometer was placed 0.62 g (3 mmol) of 4-amino-3,5-dichlorobenzoic acid, 20 mL of tetrahydrofuran, and 1.52 g (15 mmol) of triethylamine. To the resulting well-stirred mixture was added 0.4 g (3.3 mmol) of methanesulfonyl chloride dropwise while keeping the reaction temperature at -25° C. The resulting suspension was stirred at -25° C. for 30 minutes, after which 0.7 g (3.8 mmol) of 3-amino-1-chloro-3-methyl-2-pentanone hydrochloride was added slowly over a 45 minute period. After the addition was complete, the reaction mixture was stirred at -25° C. for an additional 60 minutes. The cooling bath was removed; the reaction mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was poured into a mixture of water and ethyl acetate. The phases were separated and the aqueous layer was extracted several times with ethyl acetate. The combined organic phases were washed sequentially with water, saturated aqueous sodium bicarbonate, and water, then dried over anhydrous magnesium sulfate. The resulting solution was treated with charcoal and filtered through Celite™. The solvent was removed using a rotary evaporator, yielding 0.84 g of 4-amino-3,5-dichloro-N-(3-chloro-1-ethyl-1-methyl-2-oxopropyl)benzamide as a white solid, mp 134-138° C.

reactant | 4-amino-3,5-dichlorobenzoic acid | 3 mmol, 0.62 g | NC1=C(C=C(C(=O)O)C=C1Cl)Cl | C7H5Cl2NO2
reactant | triethylamine | 15 mmol, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.3 mmol, 0.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-amino-1-chloro-3-methyl-2-pentanone hydrochloride | 3.8 mmol, 0.7 g | Cl.NC(C(CCl)=O)(CC)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-amino-3,5-dichloro-N-(3-chloro-1-ethyl-1-methyl-2-oxopropyl)benzamide | 0.84 g | NC1=C(C=C(C(=O)NC(C(CCl)=O)(C)CC)C=C1Cl)Cl | C13H15Cl3N2O2
